US06495541B1
6-Oxo-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indole-2-carboxylic acid methyl ester (50 mg, 0.20 mmol) was suspended in 1 mL of a 33% solution of methylamine in methanol. The suspension was stirred at room temperature for 21 h. Another 2 mL 33% methylamine in methanol was added and the resulting solution stirred another 8 h at room temperature then 15 h at 30° C. The reaction mixture was concentrated in vacuo leaving a yellow solid which was crystallized from DMF/MeOH/CHCl3 to yield 6-oxo-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indole-2-carboxylic acid methylamide, 36 mg (72%) as a yellow solid: m.p. 321-322° C. (dec); 1H NMR (300 MHz, d6-DMSO) δ2.81 (s, 3H), 3.15 (m, 2H), 3.40 (m, 2H), 7.32 (app t, J=7.8 Hz, 1H), 7.61 (d, J=8.1 Hz, 1H), 7.74 (d, J=7.5 Hz, 1H), 7.95 (br q, 1H), 8.09 (br t, 1H), 11.46 (br s, 1H). MS (electrospray, [M+Na]+) 266. Anal. (C13H13N3O2.0.4 H2O) C, H, N.

reactant | 6-Oxo-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indole-2-carboxylic acid methyl ester | 0.20 mmol, 50 mg | COC(=O)C=1NC=2C=CC=C3C2C1CCNC3=O | C13H12N2O3
reactant | methylamine | CN | CH5N
reactant | methylamine | 2 mL | CN | CH5N
solvent | methanol | CO | CH4O
product | 6-oxo-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indole-2-carboxylic acid methylamide | CNC(=O)C=1NC=2C=CC=C3C2C1CCNC3=O | C13H13N3O2
